Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / Tetracycline Analogues / Amoxicillin / IV Dye, 
Iodine Containing Contrast Media / Lactose / Statins-Hmg-Coa 
Reductase Inhibitors / metoprolol
 
Attending: ___.
 
Chief Complaint:
Asymptomatic carotid stenosis
 
Major Surgical or Invasive Procedure:
___ RIGHT CAROTID ENDARTERECTOMY

 
History of Present Illness:
The patient is a ___ male with progressive carotid 
stenosis, now greater than 80%.  In addition, he is intolerant 
of statin, so we discussed elective preventative repair.  He 
understood the risks including stroke, cranial nerve injury, 
restenosis, and bleeding. 

 
Past Medical History:
CAD (s/p DES to LAD in ___ 
Prostate cancer s/p prostatectomy ___
Hodgkin's Lymphoma ___ s/p splenectomy, chemotherapy and
radiation,
Gout
Tonsillectomy
Spontaneous subarachnoid hemorrhage ___, treated conservatively 

Hemorrhoids
Herpes zoster and simplex
Hyperlipidemia
asthma
peptic ulcer disease

 
Social History:
___
Family History:
Father had an MI at age ___, died at age ___.

 
Physical Exam:
Physical Exam as of **** ___

132 / 76, 107, 18             93 RA  
Gen: NAD, AOx3 
HEENT: PEERLA, no neck masses, right neck incision clean, dry 
and intact / flat - his trachea is mobile 
PULM: unlabored breathing, normal chest excursion 
CV: RRR, no m/r/g 
Abd: soft, non-distended, non-tender, no masses 
Ext: no edema

 
Pertinent Results:
___ 05:01AM BLOOD WBC-8.0 RBC-3.78* Hgb-12.2* Hct-37.8* 
MCV-100* MCH-32.3* MCHC-32.3 RDW-15.6* RDWSD-57.1* Plt ___
___ 06:00AM BLOOD ___ PTT-25.3 ___
___ 05:01AM BLOOD Plt ___
___ 05:01AM BLOOD Glucose-98 UreaN-13 Creat-0.9 Na-141 
K-4.3 Cl-105 HCO3-26 AnGap-10
___ 05:01AM BLOOD Calcium-7.8* Phos-3.4 Mg-1.8
 
Brief Hospital Course:
Neuro: Pain was well controlled on Tylenol and oxycodone

CV: Vital signs were routinely monitored during the patient's 
length of stay. 
 
Pulm: The patient was encouraged to ambulate, sit and get out of 
bed, use the incentive spirometer, and had oxygen saturation 
levels monitored as indicated. 

GI: The patient was initially kept NPO after the procedure. The 
patient was later advanced to and tolerated a regular diet at 
time of discharge. 

GU: Patient had a Foley catheter that was removed at time of 
discharge. Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty. 

ID: The patient's vital signs were monitored for signs of 
infection and fever. The patient was started on/continued on 
antibiotics as indicated. 

Heme: The patient had blood levels checked post operatively 
during the hospital course to monitor for signs of bleeding. The 
patient had vital signs, including heart rate and blood 
pressure, monitored throughout the hospital stay. 

He was seen and evaluated by Physical Therapy - The pt has a 
history of Tremor/postural tremor and felt unsteady on his feet. 
 ___ deemed him an appropriate rehab candidate. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Testosterone Cypionate 300 mg sc Q3 WEEKS 
2. Fish Oil (Omega 3) 1000 mg PO BID 
3. Niacin 100 mg PO BID 
4. Diltiazem Extended-Release 120 mg PO DAILY 
5. Budesonide Nasal Inhaler  (*NF*) 90 mcg Other DAILY 
6. lysine ___ mg oral TID 
7. Vitamin E 400 UNIT PO DAILY 
8. Vitamin D ___ UNIT PO TID 
9. Aspirin 325 mg PO DAILY 
10. Clindamycin 600 mg PO ONE HOUR BEFORE DENTAL CLEANING 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze  
3.  Docusate Sodium 100 mg PO BID  
4.  Levalbuterol Neb 0.63 mg NEB Q4H:PRN sob  
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth Q 4 HOURS Disp #*10 
Tablet Refills:*0 
6.  Pulmicort Flexhaler (budesonide) 180 mcg/actuation 
inhalation PRN  
7.  Senna 17.2 mg PO QHS  
8.  Aspirin 325 mg PO DAILY  
9.  Budesonide Nasal Inhaler  (*NF*) 90 mcg Other DAILY  
10.  Clindamycin 600 mg PO ONE HOUR BEFORE DENTAL CLEANING  
11.  Diltiazem Extended-Release 120 mg PO DAILY  
12.  Fish Oil (Omega 3) 1000 mg PO BID  
13.  lysine ___ mg oral TID  
14.  Niacin 100 mg PO BID  
15.  Testosterone Cypionate 300 mg sc Q3 WEEKS  
16.  Vitamin D ___ UNIT PO TID  
17.  Vitamin E 400 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
ASYMPTOMATIC CAROTID STENOSIS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Carotid Endarterectomy Surgery Discharge Instructions 

WHAT TO EXPECT: 
1. Surgical Incision: 
• It is normal to have some swelling and feel a firm ridge along 
the incision 
• Your incision may be slightly red and raised, it may feel 
irritated from the staples 
2. You may have a sore throat and/or mild hoarseness 
• Try warm tea, throat lozenges or cool/cold beverages 
3. You may have a mild headache, especially on the side of your 
surgery 
• Try ibuprofen, acetaminophen, or your discharge pain 
medication 
• If headache worsens, is associated with visual changes or 
lasts longer than 2 hours- call vascular surgeon’s office 
4. It is normal to feel tired, this will last for ___ weeks 
• You should get up out of bed every day and gradually increase 
your activity each day 
• You may walk and you may go up and down stairs 
• Increase your activities as you can tolerate- do not do too 
much right away! 
5. It is normal to have a decreased appetite, your appetite will 
return with time 
• You will probably lose your taste for food and lose some 
weight 
• Eat small frequent meals 
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing 
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication 

MEDICATION: 
• Take all of your medications as prescribed in your discharge 

ACTIVITIES: 
• No driving until post-op visit and you are no longer taking 
pain medications 
• No excessive head turning, lifting, pushing or pulling 
(greater than 5 lbs) until your post op visit 
• You may shower (no direct spray on incision, let the soapy 
water run over incision, rinse and pat dry) 
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area 

CALL THE OFFICE FOR: ___ 
• Changes in vision (loss of vision, blurring, double vision, 
half vision) 
• Slurring of speech or difficulty finding correct words to use 
• Severe headache or worsening headache not controlled by pain 
medication 
• A sudden change in the ability to move or use your arm or leg 
or the ability to feel your arm or leg 
• Trouble swallowing, breathing, or talking 
• Temperature greater than 101.5F for 24 hours 
• Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions 

 
Followup Instructions:
___